Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:11].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],1.82365777246
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12],-1.54266249611
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.70406530095
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7](=[O:8])[H:9]>>[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][C:7](=[O:8])[H:9],2.66984546775
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[H:7],1.63372993541
[H:1][C:2]1[O:3][O:4]1>>[H:1][C:2]([O:3])=[O:4],-3.62469928227
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:4].[O:1]=[C:2]=[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],4.43796735741
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.81166192953
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])([C:7])[H:11].[H:1][C:2](=[C:3]=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],0.92104016386
[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.2267986296
[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.71910519973
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5]([H:6])[H:7],0.274726108791
[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],-6.74033098165
[H:12].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.98188448791
[H:1][O:2][O:3]/[C:4](=[C:6]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.90615933729
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-0.21150998981
[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2],0.962044585621
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-3.93933795833
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1],8.01599091672
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],4.7902522401
[H:1][O:2][C:3]([C:5]#[C:6][C:7]([H:8])[H:9])[O:10][H:11].[H:4]>>[H:1][O:2][C:3]([H:4])([C:5]#[C:6][C:7]([H:8])[H:9])[O:10][H:11],-2.27458731035
[C:7]([H:8])([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-0.81621637757
[O:1]=[C:2]([H:3])[C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11]>>[O:1][C@@:2]1([H:3])[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.0996298942391
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.89454050969
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.97780354266
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13],-0.40730552343
[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4][O:5][H:6]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-6.65530573006
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],0.51539381213
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[C:3]=[O:4])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.110606019051
